* gnetlist -g spice-noqsi -o test_active_inductor.net test_active_inductor.sch
* SPICE file generated by spice-noqsi version 20170819
* Send requests or bug reports to jpd@noqsi.com
Vtest Vtest GND dc 1
+ac 1
Vs Vss GND 0V
Vd Vdd GND 'SUPPLY'
R1 Vtest Ltest 50      
XACTIVE_INDUCTOR Ltest ACTIVE_INDUCTOR
.PARAM SUPPLY=3.3v
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.GLOBAL Vdd Vss
.INCLUDE active_inductor.net
.control
set noaskquit
AC LIN 1000 100Meg 200Meg
run
let S11=(2*v(Ltest)/v(Vtest)-1)
settype s-param S11

let S11db=db(S11)
settype decibel S11db

let P11=180*ph(s11)/pi
settype phase P11

plot s11db ylimit -0.5 0
plot P11

print S11 > S11_active_inductor.log
*plot smithgrid S11
*wrs2p s3046.s2p $ write touchstone vers. 1 file s3046.s2p
.endc
